US09416210B2
Methyl 6-bromohexanoate was reacted with sodium azide to give methyl 6-azidohexanoate, then converted to the corresponding hydrazide using hydrazine hydrate. The linker compound 6-azidohexanehydrazide was conjugated with DOX hydrochloride in dry methanol, with a drop of acetic acid, forming the desired DOX-azide compound. The one-pot method polymerization/click method shown in the scheme was used to synthesize the new DOX-polyMPC copolymer. The polymer was characterized with NMR spectroscopy and GPC, while drug weight percent was measured using a UV method.

reactant | Methyl 6-bromohexanoate | BrCCCCCC(=O)OC | C7H13BrO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | methyl 6-azidohexanoate | N(=[N+]=[N-])CCCCCC(=O)OC | C7H13N3O2
